US05037834
2-Amino-5,6,7,8-tetrahydro-6-triphenylmethylpyrido[4,3-d]-pyrimidine
2-[(Dimethylamino)methylene]-1-triphenylmethyl-4-piperidone (0.172 g, 0.434 mmol) was dissolved in ethyl acetate (4 ml) and treated with guanidine carbonate (47 mg, 0.260 mmol). The reaction mixture was heated to reflux for sixteen hours, and then concentrated in vacuo. Purification of the residue via flash column chromatography (eluant: 3:1 ethyl acetate: hexanes) yielded the title product as a yellow oil (83 mg, 0.21 mmol, 48% yield).

reactant | 2-[(Dimethylamino)methylene]-1-triphenylmethyl-4-piperidone | 0.434 mmol, 0.172 g | CN(C)C=C1N(CCC(C1)=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H28N2O
reactant | guanidine carbonate | 0.260 mmol, 47 mg | C(O)(O)=O.NC(=N)N
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 2-Amino-5,6,7,8-tetrahydro-6-triphenylmethylpyrido[4,3-d]-pyrimidine | 0.21 mmol, 83 mg, 48% yield | NC=1N=CC2=C(N1)CCN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C26H24N4
